US08710061B2
To a solution of 2-(2-methoxyphenyl)cyclopentanol (9.11 g, 47.4 mmol) in Acetone (Volume: 474 ml) was added Jones reagent (6.52 ml, 52.1 mmol) (8.0 M). After the addition was complete (the conversion of red reagent to green solid, and the supernatant solution took on the color of unreacted reagent), isopropanol was added to quench the excess reagent. The green solid was filtered off through ceilite and rinsed with acetone. The filtrate was concentrated and purified by flash chromatography to get 2-(2-methoxyphenyl)cyclopentanone (6.64 g, 34.9 mmol, 73.6% yield). LC-MS (M+H)+=191.0. 1H NMR (500 MHz, CD3OD) δ 7.24 (td, J=7.8, 1.8 Hz, 1H), 7.09 (dd, J=7.5, 1.7 Hz, 1H), 6.95 (d, J=8.2 Hz, 1H), 6.90 (td, J=7.4, 1.1 Hz, 1H), 3.77 (s, 3H), 3.43-3.37 (m, 1H), 2.48-2.30 (m, 3H), 2.23-2.11 (m, 2H), 2.00-1.88 (m, 1H).

reactant | 2-(2-methoxyphenyl)cyclopentanol | 47.4 mmol, 9.11 g | COC1=C(C=CC=C1)C1C(CCC1)O | C12H16O2
reactant | Jones reagent | 52.1 mmol, 8.0 M, 6.52 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | Acetone | 474 ml | CC(=O)C | C3H6O
product | 2-(2-methoxyphenyl)cyclopentanone | 34.9 mmol, 6.64 g, 73.6% yield | COC1=C(C=CC=C1)C1C(CCC1)=O | C12H14O2
